US03957828
A solution of 730 g. of 2-bromobenzhydrol and 25 l. of methanol is slowly heated to reflux over a 2 hour span while a stream of hydrogen chloride gas is bubbled into the solution. The solution is refluxed for 24 hours, and concentrated to a liquid. Distillation gives 2-bromobenzhydryl methyl ether as a pale yellow liquid, b.p. 125° - 128°C./0.2 mm.

reactant | 2-bromobenzhydrol | BrC1=C(C(C2=CC=CC=C2)O)C=CC=C1 | C13H11BrO
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | 2-bromobenzhydryl methyl ether | COC(C1=C(C=CC=C1)Br)C1=CC=CC=C1 | C14H13BrO
